US08106190B2
Under ice-cooling, sodium borohydride was slowly added in small portions to an acetic acid solution of 2-{[(1R,2R)-2-aminocyclohexyl]amino}-4-(trifluoromethyl)benzonitrile, followed by heating at 60° C. for 6 hours. By post-treating the reaction liquid, 2-{[(1R,2R)-2-(ethylamino)cyclohexyl]amino}-4-(trifluoromethyl)benzonitrile was obtained. A formalin aqueous solution and sodium triacetoxyborohydride were added to a THF solution of this, followed by stirring. By post-treating the reaction liquid, 2-({(1R,2R)-2-[ethyl(methyl)amino]cyclohexyl}amino)-4-(trifluoromethyl)benzonitrile was obtained.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 2-{[(1R,2R)-2-aminocyclohexyl]amino}-4-(trifluoromethyl)benzonitrile | N[C@H]1[C@@H](CCCC1)NC1=C(C#N)C=CC(=C1)C(F)(F)F | C14H16F3N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{[(1R,2R)-2-(ethylamino)cyclohexyl]amino}-4-(trifluoromethyl)benzonitrile | C(C)N[C@H]1[C@@H](CCCC1)NC1=C(C#N)C=CC(=C1)C(F)(F)F | C16H20F3N3
